US06897225B1
To a solution of (5S,7R)-5-(4-bromobenzyl)-3-(3,5-dichlorophenyl)-7-hydroxy-1,3-diazabicyclo[3.3.0]octane-2,4-dione (0.81 g) in CH2Cl2 (5 mL) and DIEA (0.50 mL) at 0° C. was added methanesulfonyl chloride (0.19 mL). After 1 hour at 0° C., the mixture was diluted with CH2Cl2, washed with satd. NaHCO3 and brine, dried (Na2SO4) and concentrated to give (5S, 7R)-5-(4-bromobenzyl)-3-(3,5-dichlorophenyl)-7-methylsulfonyloxy-1,3-diazabicyclo[3.3.0]octane-2,4-dione. MS (m/z) 494 (MH+).

reactant | (5S,7R)-5-(4-bromobenzyl)-3-(3,5-dichlorophenyl)-7-hydroxy-1,3-diazabicyclo[3.3.0]octane-2,4-dione | 0.81 g | BrC1=CC=C(C[C@@]23C(N(C(N3C[C@@H](C2)O)=O)C2=CC(=CC(=C2)Cl)Cl)=O)C=C1 | C19H15BrCl2N2O3
reactant | methanesulfonyl chloride | 0.19 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DIEA | 0.50 mL | CCN(C(C)C)C(C)C | C8H19N
product | (5S, 7R)-5-(4-bromobenzyl)-3-(3,5-dichlorophenyl)-7-methylsulfonyloxy-1,3-diazabicyclo[3.3.0]octane-2,4-dione | BrC1=CC=C(C[C@@]23C(N(C(N3C[C@@H](C2)OS(=O)(=O)C)=O)C2=CC(=CC(=C2)Cl)Cl)=O)C=C1 | C20H17BrCl2N2O5S
